* Created by KLayout
*** My special header ***

* cell DEL1
* pin A
* pin Y
* pin gnd
* pin vdd
.SUBCKT DEL1 A Y gnd vdd
* device instance $1 r0 *1 18.9,53.2 PMOS
XM$1 \$4 \$2 vdd vdd PMOS L=2u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 23.4,53.2 PMOS
XM$2 vdd \$4 Y vdd PMOS L=1u W=20.4u AS=30.6p AD=43.86p PS=26.4u PD=39.2u
* device instance $4 r0 *1 5.4,53.2 PMOS
XM$4 \$3 A vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $5 r0 *1 9.9,53.2 PMOS
XM$5 vdd \$3 \$2 vdd PMOS L=2u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $6 r0 *1 18.9,17.4 NMOS
XM$6 \$4 \$2 gnd gnd NMOS L=2u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $7 r0 *1 23.4,17.4 NMOS
XM$7 gnd \$4 Y gnd NMOS L=1u W=6.8u AS=10.2p AD=14.62p PS=12.8u PD=18.8u
* device instance $9 r0 *1 5.4,17.4 NMOS
XM$9 \$3 A gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $10 r0 *1 9.9,17.4 NMOS
XM$10 gnd \$3 \$2 gnd NMOS L=2u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS DEL1
